US05789412
33A: 2-(piperazin-1-yl)-4-nitroanisole
2-(Piperazin-1-yl)anisole (5.1 g; 26 mmol) is acidified slowly with 6 ml of sulfuric acid (5N) and then dehydrated by evaporation under reduced pressure. Concentrated sulfuric acid is then added (22 ml) very slowly (25 min) and the reaction medium is stirred until a homogeneous mixture is obtained. Potassium nitrate (3.1 g; 31 mmol) is added portionwise over 35 minutes. The reaction is stirred for 4 hours. The solution is then poured onto ice and neutralized by addition of sodium carbonate (to pH≈7-8). The nitro derivative is extracted from the aqueous phase with ethyl acetate (4×80 ml), dried over magnesium sulfate and purified by flash chromatography with an eluent gradient (2 to 5% methanol in dichloromethane in the presence of 0.5% aqueous ammonia).

reactant | 2-(Piperazin-1-yl)anisole | 26 mmol, 5.1 g | N1(CCNCC1)C1=C(C=CC=C1)OC | C11H16N2O
reactant | sulfuric acid | 5N, 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | Potassium nitrate | 31 mmol, 3.1 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium carbonate | pH≈7-8 | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(piperazin-1-yl)-4-nitroanisole | N1(CCNCC1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C11H15N3O3
